US05206257
A solution of 2-(2,6-dichloro-4-trifluoromethylphenyl)-4,5-dicyanoimidazole (25.3 g, 0.08 mol) in absolute ethanol (80 ml) and concentrated hydrochloric acid (30 ml) was heated at reflux for 69 hours. The mixture was poured into cold water (200 ml) and extracted with dichloromethane (2×150 ml). The combined organic layers were extracted with saturated aqueous sodium bicarbonate (2×200 ml) which was acidified carefully to pH 3 and extracted with dichloromethane (100 ml). The aqueous layer was acidified to pH 1 and extracted with ethyl acetate (2×100 ml), washed with water (100 ml), dried over anhydrous sodium sulphate and evaporated to dryness. The gummy residue was treated with dichloromethane (50 ml) and evaporated to dryness to give 5-cyano-2-(2,6-dichloro-4-trifluoromethylphenyl)imidazole-4-carboxylic acid (6.31 g) as an off-white solid which decomposed at 80°-130° C.

reactant | 2-(2,6-dichloro-4-trifluoromethylphenyl)-4,5-dicyanoimidazole | 0.08 mol, 25.3 g | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)C=1NC(=C(N1)C#N)C#N | C12H3Cl2F3N4
reactant | water | 200 ml | O | H2O
reactant | ethanol | 80 ml | C(C)O | C2H6O
solvent | hydrochloric acid | 30 ml | Cl | ClH
product | 5-cyano-2-(2,6-dichloro-4-trifluoromethylphenyl)imidazole-4-carboxylic acid | 6.31 g | C(#N)C1=C(N=C(N1)C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C(=O)O | C12H4Cl2F3N3O2
